US04415496
Methyl 2-(4'-carboxy-4'-phthalimidobutyl)-4(R)-thiazolidinecarboxylate
A solution of L-cysteine methyl ester (1.71 g) and 5-formyl-2(S)-phthalimidopentanoic acid (3.49 g) in 120 ml of tetrahydrofuran was stirred under nitrogen for 2.5 hours and then taken to dryness to yield a white foam. This residue was dissolved in 250 ml of chloroform and washed with water (2×30 ml). The combined aqueous layers were back extracted with chloroform (2×30 ml). The organic layers were dried (Na2SO4) and then concentrated in vacuo to give a white foam, 4.83 g. Tlc on silica [4:1 Ethyl acetate:acetic acid] indicated a major spot at Rf =0.72. Exact mass measurement showed a molecular ion at 392.1024 (calcd. 392.1041). 'H NMR spectrum (CDCl3) showed a multiplet at δ7.72 (4H) and a singlet at δ3.78(3H).

reactant | L-cysteine methyl ester | 1.71 g | COC([C@@H](N)CS)=O | C4H9NO2S
reactant | 5-formyl-2(S)-phthalimidopentanoic acid | 3.49 g | C(=O)CCC[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2-(4'-carboxy-4'-phthalimidobutyl)-4(R)-thiazolidinecarboxylate | C(=O)(O)C(CCCC1SC[C@H](N1)C(=O)OC)N1C(C=2C(C1=O)=CC=CC2)=O | C18H20N2O6S
